### PR TITLE
Kwxm/bls12-381/prototype (PLT-192, PLT-1557, PLT-1554, etc).

### PR DESCRIPTION
**Pull request by kwxm**
## Introduction

This PR adds new built-in types and functions to Plutus Core and PlutusTx for pairings over BLS12-381, as specified in [CIP-0381](https://cips.cardano.org/cips/cip0381/).  These depend on Haskell bindings to the [blst C library](https://github.com/supranational/blst) which are currently the subject of an [open PR](https://github.com/input-output-hk/cardano-base/pull/266) in `cardano-base`.  In order not to depend on a branch, the code for these has been coped into `plutus-core/cbits` and `plutus-core/src/plutus-core/Crypto/External`.  We should be able to merge this PR as-is, but ideally we'd wait until the `cardano-base` PR is merged and remove the copied files from `plutus-core`.

## Details
The PR introduces three new PLC types:
  * `bls12_381_G1_element`
  * `bls12_381_G2_element`
  * `bls12_381_MlResult`

and seventeen new built-in functions:
```
bls12_381_G1_add                : [ bls12_381_G1_element, bls12_381_G1_element ] -> bls12_381_G1_element
bls12_381_G1_neg                : [ bls12_381_G1_element ] -> bls12_381_G1_element
bls12_381_G1_scalarMul          : [ integer, bls12_381_G1_element ] -> bls12_381_G1_element
bls12_381_G1_equal              : [ bls12_381_G1_element, bls12_381_G1_element ] -> bool
bls12_381_G1_hashToGroup        : [ bytestring ] -> bls12_381_G1_element
bls12_381_G1_compress           : [ bls12_381_G1_element ] -> bytestring
bls12_381_G1_uncompress         : [ bytestring ] -> bls12_381_G1_element

bls12_381_G2_add                : [ bls12_381_G2_element, bls12_381_G2_element ] -> bls12_381_G2_element
bls12_381_G2_neg                : [ bls12_381_G2_element ] -> bls12_381_G2_element
bls12_381_G2_scalarMul          : [ integer, bls12_381_G2_element ] -> bls12_381_G2_element
bls12_381_G2_equal              : [ bls12_381_G2_element, bls12_381_G2_element ] -> bool
bls12_381_G2_hashToGroup        : [ bytestring ] -> bls12_381_G2_element
bls12_381_G2_compress           : [ bls12_381_G2_element ] -> bytestring
bls12_381_G2_uncompress         : [ bytestring ] -> bls12_381_G2_element

bls12_381_millerLoop            : [ bls12_381_G1_element, bls12_381_G2_element ] -> bls12_381_mlresult
bls12_381_mulMlResult           : [ bls12_381_mlresult, bls12_381_mlresult ] -> bls12_381_mlresult
bls12_381_finalVerify           : [ bls12_381_mlresult, bls12_381_mlresult ] -> bool

```
The basic definitions of all of these things are in `plutus-core/plutus-core/src/Crypto/BLS12_381/`, in the files `G1.hs`, `G2.hs`, and `Pairing.hs`.  The following sections will attempt to give an idea of what all of these do, but some mathematical background will be required first.

### Abelian groups
An abelian group is a commutative monoid in which every element has an inverse.  These are usually written in an additive style where the operation is `+`, the identity element is `0`, and the inverse of an element `a` is `-a`, but they are sometimes written in a multiplicative style where the operation is `*`, the identity element is `1`, and the inverse of an element `a` is `a⁻¹`.  The types G1 and G2 above represent finite additive abelian groups and `MlResult` represents a multiplicative one.

For any abelian group one can define a notion of scalar multiplication by integers.  Given an element `a` of an abelian group and an integer n, `n*a` is defined to be 0 if n=0, `a+...+a` `n` times if `n>0`, and `(-a) + ... + (-a)` `-n` times if `n<0`.  In multiplicative notation this scalar "multiple is written as a power `aⁿ`. 

The `add`, `neg`, and `scalarMul` operations above represent these operations in the groups G1 and G2; in addition there is an equality operation,  serialisation (`compress`) and deserialisation (`uncompress`) operations, and a `hashToGroup` operation which takes an arbitrary bytestring and produces a hash in the form of an element of G1 or G2.

This leaves three functions: `mulMlResult`, which performs group multiplication in the group `MlResult`; `millerLoop`, which takes an element of `G1` and an element of `G2` and produces an element of `MlResult` (this is the actual pairing operation), and `finalVerify`, which essentially compares two elements of `MlResult` for equality.  The last two operations (`millerLoop` and `finalVerify`) are very expensive and are typically only expected to be called a few times in on-chain code.

To explain more of the details of the new functions we need some extra background.

### Finite fields
A _field_ `F` is a set equipped with two operations `+` and `*`and elements `0` and `1` such that 
  * `(F, 0, +)` is an abelian group
  * `(F,1,*)` is a commutative monoid such that every nonzero element of `F` has a multiplicative inverse (so `F\{0}` is an abelian group under multiplication).
  * Multiplication is distributive over addition: `a*(b+c) = a*b + a*c`for all a,b,c in F.

Familiar examples of fields are `ℚ`, `ℝ`, and `ℂ` (but not `ℤ` since not every element has a multiplicative inverse in `ℤ`).  

There are also _finite_ fields, and these can be completely classified.  It can be shown that for every prime number `p` and every positive integer `n` there is a field of order `pⁿ` (the _order_ of a field or group is its cardinality, the number of elements it contains), and these account for all of the finite fields up to isomorphism.  These fields are usually denoted by `𝔽_{pⁿ}` or `GF(pⁿ)` or `GF(p,n)` or something similar; I'll use `GF(pⁿ)` because it's easier to type. 

For `n=1`, `GF(p)` is just `ℤₚ` with the usual operations, the important point being that every nonzero element there has a multiplicative inverse modulo p, unlike `ℤₙ` if `n` is not prime (what would be the inverse of 6 in `ℤ₂₄`, for example?).  

For `n>1`, we can regard `GF(p,n)` as consisting of n-tuples of elements of `ℤₚ`; addition is usual coordinatewise addition, but multiplication will be something much more convoluted (and expensive), where the i-th entry in a product will be a complicated combination of all of the elements of the two tuples being multiplied.

### Elliptic curves
For the purposes of this PR, an _elliptic curve_ `E` over a field `F` can be regarded as an equation of the form `y² = x³+ax+b`, where `a` and `b` are constants from `F`.  The set of all pairs `(x,y) ∈ F×F` is also referred to as "the curve".  When the field is `ℝ` an elliptic curve is what you'd usually think of as a curve (see Google), but when F is a finite field the so-called curve is an apparently random set of pairs of field elements. However, although the geometric structure has vanished, there is an extremely rich algebraic structure that still makes sense.

A fundamental property of elliptic curves is that they are also abelian groups: given two points `P` and `Q` on an elliptic curve `E` one can define another point `P+Q` which also lies on the curve.  There's a geometric picture for this over `ℝ` (see Google again), but also an algebraic form which applies over any field. The coordinates of `P+Q` are complicated algebraic functions of the coordinates of `P` and `Q`.  In particular, if you're given  a point `P` and the point `nP` (= `P+...+P`) for some integer n, it's not easy to work out what `n` is: this is the _discrete logarithm problem on E_ and is believed to be computationally intractable in general, which is one reason why elliptic curves are useful in cryptography.

### Pairings
A pairing is a function e: `G₁ × G₂ → G_T` where `G₁`,  `G₂` and `G_T` are abelian groups (the T's supposed to be a subscript, but I can't find a Unicode character for that).  In our case, `G₁` and  `G₂` are written additively, but to complicate matters, `G_T` is written multiplicatively.  A pairing is require to be _bilinear_: for `p, p' ∈ G₁`, `q, q' ∈ G₂`, and `n ∈ ℤ` we should have
   *  `e(p+p',q) = e(p,q) * e(p',q)` (remember that the operation in `G_T` is multiplication)
   *  `e(p,q+q') = e(p,q) * e(p,q')`
   * `e(n*p,q) = e(p,q)ⁿ = e(p,n*q)`

The final property here is one reason that the concept of pairing useful in cryptography: it allows one person to perform a computation in `G₁` and another to perform a computation in `G₂` and then the results can be compared in `G_T` without having to share information (or at least that's my simplistic interpretation: the details are complicated).

## Back to Plutus
The situation in BLS12-381 is as follows:
  * Everything happens over a field of order `q` where is a 381-bit prime (approximately 10^115)
  * `G₁` is a subgroup of an elliptic curve `E₁` defined over `GF(q)`
  * `G₂` is a subgroup of an elliptic curve `E₂` defined over `GF(q²)`
  * `G_T` is a subgroup of the multiplicative group of nonzero elements of `GF(q¹²)` (the elements of this field are huge: you need 12x48 = 576 bytes to hold a single element)
  * `G₁`, `G₂`, and `G_T` are all isomorphic to each other and are of order `p` where `p` is a 255-bit prime (about 10^77).  In fact, all of these groups are isomorphic to `(ℤₚ, +)`, but in very obfuscated ways.
  * It is also the case that `p*a = 0` for all `a ∈ G₁`, and similarly for `G₂` , so scalar multiplication is periodic modulo `p`.  This means that the efficiency of computing a scalar multiple `n*a` can be improved by reducing `n` modulo `p` before performing that multiplication (although scalar multiplication is still quite expensive since we've got up to 255 bits to multiply by).

It's not at all obvious that a situation like this should even exist: there's some very complicated mathematics going on behind the scenes.

### Serialisation and compression
We can now explain how elements of `G₁` and `G₂`can be serialised as bytestrings.

It follows from the facts above that every element of `G₁` can be represented as a pair `(x,y)` with `x,y ∈ GF(q)`, and each of x and y take up 381 bits, each of which fits into 48 bytes with 3 bits left over.  These values can be serialised in this form, taking up a total of 96 bytes.  However, this is inefficient in terms of space: remember that the point satisfy an equation `y² = x³ + ax +b`, so if you know the x-coordinate of a point and can compute square roots in `GF(q)` then you can calculate the y-coordinate of the point and save yourself 48 bytes (with some complications that we'll see later).   A similar situation holds for elements of `G₂`, except that each coordinate requires 96 bytes.  There are thus two possibilities for how group elements can be serialised into bytestrings:

* You can write both coordinates and then when you deserialise you read them in and check that the x and y values satisfy the equation of the curve.
* You can just save the x coordinate and calculate the y coordinate from that using the equation of the curve.  However there are two more complications here
    * Not every point in `GF(q)` has a square root, so your serialised value may not correspond to a point on the curve.
    * The nonzero points which have square roots have _two_ distinct square roots, so you have a choice of two points on the curve.  One of the three spare bits in the 48-byte representation is used to decide which point you want.
 * A further complication is that the zero point on the curve is actually an extra point called "the point at infinity" that effectively has an infinite y coordinate.  Another of the spare bits is used to indicate the encoding of the point at infinity.

The `blst` library supports both of these formats, using the final spare bit to indicate which serialisation method is intended (see the specification [here](https://github.com/supranational/blst#serialization-format)) (the "spare" bits are the most significant (leftmost) bits in the bytestring encoding) .  The first method is called "serialisation" and the second "compression".  There's a trade-off here: the serialised format is space-inefficient but deserialisation is fast, whereas for the compressed format only half the space is required but uncompression is slower because of the need to extract a square root.  In fact, experiments show that uncompression takes about 20 times longer than deserialisation for `G₁` and about 30 times longer for `G₂`.  Despite this **we have chosen to use the compressed format in Plutus Core**,  providing uncompression functions `bls12_381_G1_uncompress` and `bls12_381_G1_uncompress`, along with corresponding compression functions.  We may wish to rethink this at some point, possibly adding serialisation and deserialisation if the time penalty for uncompression is too great.

Our representation is more restrictive than that of `blst`: `blst` allows serialisation of any point on the curve `E₁` (or `E₂`), but during uncompression we reject any points which do not lie in the _subgroup_ `G₁` (or `G₂`).  The subgroups are much smaller than the entire curve group (`|E₁|/|G₁| ≈ 7×10³⁷` and `|E₂|/|G₂| ≈ 3×10¹⁵²`) so the chance of being able to successfully decompress a random bytestring to get a point in a subgroup is negligible.

We have also used the compressed representation for the concrete syntax for `G₁` and `G₂` elements.  A constant of type `G₁` is represented by `(con bls12_381_G1_element 0x...)` where `...` consists of 96 hex digits, and a `G₂` element is similar but with 192 hex digits.

### Hashing
We also provide two functions `bls12_381_G1_hashToGroup` and `bls12_381_G2_hashToGroup` which, as the names suggest, take an arbitrary bytestring and produce an element in the relevant group (not just on the curve).  Hashing and uncompression are the only means of obtaining group elements directly.  The other group operations preserve the property of being in the subgroup, so none of our functions can can give us arbitrary curve elements.

### Pairing operations and `bls12_381_mlresult`
In the BLS12-381 situation, what one usually wishes to do is to calculate two pairings to get two elements of `G_T` and then compare these results for equality. This is an expensive computation and it is considerably more efficient (though still expensive) to calculate values of a so-called "reduced pairing" in an intermediate group closely related to `G_T` and then at the end perform a calculation ("final verification") that checks that two elements of the intermediate group become equal when lifted into `G_T`. 

In Plutus Core, the intermediate group is called `bls12_381_mlresult`, and the operations we can perform on this type are (deliberately) very limited.  The _only way_ to obtain a value of type `bls12_381_mlresult` is as a result of calling `bls12_381_millerLoop` (hence the name), or by multiplying together two existing elements of that type.  **We do not provide any concrete syntax, textual printing method, or serialisation format (including `flat`) for `bls12_381_mlresult`**.  

Note also that the operations on `bls12_381_mlresult` are quite expensive: the (constant) CPU costs are (currently) as follows:
```
 bls12_381_millerLoop: 402099373
 bls12_381_mulMlResult: 2544991
 bls12_381_finalVerify: 388656972
```
Fortunately this is in line with the expected on-chain usage patterns: in realistic applications one would tend to perform a few calls to `millerLoop`, some multiplications, and one call to `bls12_381_finalVerify`, and costing benchmarks (`cabal run bls-costs`) suggest that this can be done in a reasonable time. For example, a realistic zk-snark verification takes about 23% of the on-chain script execution limit (memory costs are negligible).

## Costing
Fortunately costing is quite simple for the BLS12-381 operations: costing benchmarks indicate that everything is constant cost apart from the hashing functions and the scalar multiplication functions, which are linear in the size of their input.

### CODE REVIEW

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381/HaskellTests.hs
Comment (kwxm) [inline plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381/HaskellTests.hs:1]: I wrote these tests in Haskell initially because it was easier to get them right that way, then translated them to Plutus Core.  I was planning to throw these away since they're just checking our (thin) wrapper round the blst bindings.  I feel a bit reluctant to do that now, so I'm wondering if we should convert them to tests for the plugin, or maybe contribute them back to the BLS bindings.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G1.hs
Comment (kwxm) [inline plutus-core/plutus-core/src/Crypto/BLS12_381/G1.hs:1]: I'm wondering if we should call these files `Plutus.Crypto....` or something, since there are already lots of other `Crypto.BlahBlah` modules out there.

File: nix/cells/plutus/library/make-plutus-project.nix [hunk 1]
```diff
@@ -156,6 +156,7 @@ let
           cardano-crypto-class.components.library.pkgconfig = lib.mkForce [
             [ pkgs.libsodium-vrf pkgs.secp256k1 ]
           ];
+          cardano-crypto-class.components.library.libs = lib.mkForce [ pkgs.blst ];
```
Comment (kwxm) [inline nix/cells/plutus/library/make-plutus-project.nix:159]: This gives you warnings about a missing dynamic library, which is misleading because it's a static library and it isn't missing. I've asked nix experts and they think there might be something genuinely wrong here.  It's not clear how to resolve this: maybe `blst` needs a `pkg-config` file somewhere (not something we can do in the plutus repository)/

**Comment by michaelpj** [comment]
> For example, a realistic zk-snark verification takes about 23% of the on-chain script execution limit (memory costs are negligible).

How much code is this? Could we include it as a benchmark?

**Comment by perturbing** [comment]
I implemented a VRF and a simple signature scheme (can b an aggregated one) in this [gist](https://gist.github.com/perturbing/ebde137286944b30b1de2277cfaf1c5a), these might be good benchmarks?

Also, an aggregated signature scheme might be a good benchmark (I know that the Hydra team might benefit from this, as they're considering SECP for this).

File: plutus-benchmark/bls-benchmarks/bench/Bench.hs [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+      [b1, b2, b3, b4] ->
+          let p1 = Tx.bls12_381_G1_hashToGroup $ Tx.toBuiltin b1
+              p2 = Tx.bls12_381_G2_hashToGroup $ Tx.toBuiltin b2
+              q1 = Tx.bls12_381_G1_hashToGroup $ Tx.toBuiltin b3
+              q2 = Tx.bls12_381_G2_hashToGroup $ Tx.toBuiltin b4
+              prog = mkPairingScript p1 p2 q1 q2
+          in bench "pairing" $ benchProgCek prog
+      _ -> error "Unexpected list returned by listOfSizedByteStrings"
+
+benchGroth16Verify :: Benchmark
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/bench/Bench.hs:49]: Maybe we should also add some budget tests for these so we can see how much they end up costing deterministically?

File: plutus-benchmark/bls-benchmarks/exe/Main.hs [hunk 3]
```diff
@@ -0,0 +1,161 @@
+-- editorconfig-checker-disable-file
+{-# LANGUAGE NumericUnderscores #-}
+{-# OPTIONS_GHC -Wno-unused-top-binds #-}
+{-# OPTIONS_GHC -Wno-name-shadowing #-}
+
+{- | Print out the costs of various test scripts involving the BLS12_381
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/exe/Main.hs:6]: Right, so I think what I'm suggesting is basically to make this into a test suite with budget tests instead. Maybe the output is less easy to read, IDK.

File: plutus-benchmark/bls-benchmarks/exe/Main.hs [hunk 4]
```diff
@@ -0,0 +1,161 @@
...
+import UntypedPlutusCore qualified as UPLC
+import UntypedPlutusCore.Evaluation.Machine.Cek qualified as Cek
+
+import Data.ByteString qualified as BS
+import Flat qualified
+import Text.Printf (printf)
+
+import Prelude (Double, IO, Integral, String, fromIntegral, mapM_, show, (*), (/))
+
+-- Protocol parameters (November 2022)
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/exe/Main.hs:29]: This is duplicated from somewhere else, right?

File: plutus-benchmark/bls-benchmarks/exe/Main.hs [hunk 5]
```diff
@@ -0,0 +1,161 @@
...
+    case Cek.runCekDeBruijn PLC.defaultCekParameters Cek.tallying Cek.noEmitter prog of
+      (_res, Cek.TallyingSt _ budget, _logs) ->
+          let ExCPU cpu = exBudgetCPU budget
+              ExMemory mem = exBudgetMemory budget
+          in (fromIntegral cpu, fromIntegral mem)
+
+-- | Evaluate a script and print out the serialised size and the CPU and memory
+-- usage, both as absolute values and percentages of the maxima specified in the
+-- protocol parameters.
+printStatistics :: Integer -> UProg -> IO ()
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/exe/Main.hs:68]: Right, this is very similar to `ed25519-throughput`. Would it be bad to just merge them and have one thing with all the statistics? Or just make them all budget tests?

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 6]
```diff
@@ -0,0 +1,349 @@
...
+import Prelude (IO, fromIntegral, show)
+
+-------------------------------- PLC stuff--------------------------------
+
+type UTerm   = UPLC.Term    UPLC.NamedDeBruijn DefaultUni DefaultFun ()
+type UProg   = UPLC.Program UPLC.NamedDeBruijn DefaultUni DefaultFun ()
+type UDBProg = UPLC.Program UPLC.DeBruijn      DefaultUni DefaultFun ()
+
+
+compiledCodeToTerm
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:50]: dupe? I think a bunch of this stuff is elsewhere or even in `Common`

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 7]
```diff
@@ -0,0 +1,349 @@
...
+          go (q:qs) acc = go qs $ Tx.bls12_381_G1_add (Tx.bls12_381_G1_uncompress q) acc
+
+mkUncompressAndAddG1Script :: [ByteString] -> UProg
+mkUncompressAndAddG1Script l =
+    let points = map (Tx.bls12_381_G1_compress . Tx.bls12_381_G1_hashToGroup . toBuiltin) l
+    in Tx.getPlcNoAnn $ $$(Tx.compile [|| uncompressAndAddG1 ||]) `Tx.unsafeApplyCode` Tx.liftCode points
+
+
+-- Check that point addition is commutative in G1
+checkUncompressAndAddG1_Haskell :: Integer -> IO ()
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:112]: shouldn't this be in the plutus-core test suite if anywhere?

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 8]
```diff
@@ -0,0 +1,349 @@
...
+    where go [] acc     = acc
+          go (q:qs) acc = go qs $ Tx.bls12_381_G2_add (Tx.bls12_381_G2_uncompress q) acc
+
+mkUncompressAndAddG2Script :: [ByteString] -> UProg
+mkUncompressAndAddG2Script l =
+    let points = map (Tx.bls12_381_G2_compress . Tx.bls12_381_G2_hashToGroup . toBuiltin) l
+    in Tx.getPlcNoAnn $ $$(Tx.compile [|| uncompressAndAddG2 ||]) `Tx.unsafeApplyCode` Tx.liftCode points
+
+-- Check that point addition is commutative in G2
+checkUncompressAndAddG2_Haskell :: Integer -> IO ()
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:137]: ditto

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 9]
```diff
@@ -0,0 +1,349 @@
...
+          `Tx.unsafeApplyCode` Tx.liftCode q2
+
+---------------- Groth16 verification ----------------
+
+{- | An example of the on-chain computation required for verification of a Groth16
+ proof.  The data here is derived from
+ https://github.com/achimcc/groth16-example/blob/main/src/lib.rs -}
+
+-- Wrappers for serialised group elements for slightly better type safety
+newtype SerialisedG1Element = SerialisedG1Element { g1 :: BuiltinByteString }
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:183]: Wait, are these serialized or compressed? Where do we make them not serialized?

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 10]
```diff
@@ -0,0 +1,349 @@
...
+groth16Verify alpha' beta' gamma' delta' abc1' abc2' a' b' c' s =
+    let alpha = Tx.bls12_381_G1_uncompress alpha'
+        beta  = Tx.bls12_381_G2_uncompress beta'
+        gamma = Tx.bls12_381_G2_uncompress gamma'
+        delta = Tx.bls12_381_G2_uncompress delta'
+        abc1  = Tx.bls12_381_G1_uncompress abc1'
+        abc2  = Tx.bls12_381_G1_uncompress abc2'
+        a     = Tx.bls12_381_G1_uncompress a'
+        b     = Tx.bls12_381_G2_uncompress b'
+        c     = Tx.bls12_381_G1_uncompress c'
```
Comment (michaelpj) [inline plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:318]: Not strictly necessary but this can be a good time for `ViewPatterns`
```
groth16Verify (Tx.bls12_381_G1_uncompress -> alpha) ...
```

File: nix/cells/plutus/library/make-plutus-project.nix (hunk 1 above)
Comment (kwxm) [reply nix/cells/plutus/library/make-plutus-project.nix:159]: > This does nothing at the moment, right? Since we're not using the code from cardano-crypto-class?

No, this is for the `libblst.a` C library, which needs to be available at link time, like `libsodium` and the like.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+
+-- Take an arbitrary bytestring and hash it to a get point on the curve;
+hashToGroup :: ByteString -> Element
+hashToGroup s = Element $ BlstBindings.blsHash @BlstBindings.Curve2 s Nothing Nothing
+
+
+-- Utilities (not exposed as builtins)
+
+-- | The zero element of G2
+zero :: Element
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs:93]: Maybe.  There are standard generators for G1 and G" which it might also be useful to have available.  We'll have to persuade @iquerejeta to add it there though.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+zero =
+    let b = pack (0xc0 : replicate 95 0x00) -- Compressed serialised G2 points are bytestrings of length 96: see CIP-0381.
+    in case BlstBindings.blsUncompress @BlstBindings.Curve2 b of
+         Left err       -> error $ "Unexpected failure deserialising point at infinity on BLS12_381.G2:  " ++ show err
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs:97]: This is (currently) only used for the property tests, so it doesn't matter too much if we get an error (which should never happen anyway, unless the C library gets broken or something).  I suppose that if it's there then people might use it for other, more dangerous, things though.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs [hunk 13]
```diff
@@ -0,0 +1,64 @@
...
+import Flat
+import Prettyprinter
+
+{- | This type represents the result of computing a pairing using the Miller
+   loop.  Values of this type are ephemeral, only created during script
+   execution.  We do not provide any means of serialising, deserialising,
+   printing, or parsing MlResult values. -}
+newtype MlResult = MlResult { unMlResult :: BlstBindings.PT }
+    deriving newtype (Eq)
+instance Show MlResult where
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs:32]: > It would break all our stuff that requires all builtin types to be showable.
I think that's right.  I'll check.

[Time passes...]

It gets a surprisingly long way without that (including all the way through plutus-core and plutus-ir), but fails in some Hedgehog tests [here](https://github.com/input-output-hk/plutus/blob/411cf29bfbffbab6a4e6a31ef783cd52362affdf/plutus-core/testlib/PlutusCore/Generators/Hedgehog/TypeEvalCheck.hs#L118) and also on line 133 of the same file.  I tried putting a random string in there but then it failed in the NEAT tests.  I gave up at that point.

File: plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemory.hs [hunk 14]
```diff
@@ -276,3 +280,15 @@ instance ExMemoryUsage Data where
               sizeDataList (d:ds) = sizeData d + sizeDataList ds
               sizeDataPairs []           = 0
               sizeDataPairs ((d1,d2):ps) = sizeData d1 + sizeData d2 + sizeDataPairs ps
+
+instance ExMemoryUsage Crypto.BLS12_381.G1.Element where
+    memoryUsage _ = fromIntegral $ Crypto.BLS12_381.G1.memSizeBytes `div` 8
+    -- Should be 12
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemory.hs:286]: Well it _is_ 12, but I thought it was better to get it from the library rather than hard-coding a constant.  I added the comment because it's hard to find out what the value is if you don't happen to know it already.

File: plutus-core/plutus-core/src/PlutusCore/Error.hs [hunk 15]
```diff
@@ -130,8 +130,8 @@ instance Pretty ParserError where
         "Expected a type of kind star (to later parse a constant), but got:" <+>
             squotes (pretty ty) <+> "at" <+> pretty loc
     pretty (UnknownBuiltinFunction s loc lBuiltin)   =
-        "Unknown built-in function" <+> squotes (pretty s) <+> "at" <+> pretty loc <+>
-            ". Parsable functions are " <+> pretty lBuiltin
+        "Unknown built-in function" <+> squotes (pretty s) <+> "at" <+> pretty loc <>
+            "." <> hardline <> "Parsable functions are " <+> pretty lBuiltin
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Error.hs:134]: I changed that because the error message you currently get for an unknown builtin currently looks like this:

  |
2 | (builtin unknown)
  |                 ^
Unknown built-in function 'unknown' at "bad.uplc":2:17 . Parsable functions are  [ addInteger
                                                                                 , appendByteString
                                                                                 , appendString
                                                                                 , bData
                                                                                 , blake2b_256
                                                                                 , chooseData
                                                                                 , chooseList
                                                                                 , chooseUnit
                                                                                 , consByteString
                                                                                 , constrData
                                                                                 , decodeUtf8
                                                                                 , divideInteger
                                                                                 , encodeUtf8
                                                                                 , equalsByteString
                                                                                 , equalsData
                                                                                 , equalsInteger
                                                                                 , equalsString
                                                                                 , fstPair
                                                                                 , headList
                                                                                 , iData
                                                                                 , ifThenElse
                                                                                 , indexByteString
                                                                                 , lengthOfByteString
                                                                                 , lessThanByteString
                                                                                 , lessThanEqualsByteString
                                                                                 , lessThanEqualsInteger
                                                                                 , lessThanInteger
                                                                                 , listData
                                                                                 , mapData
                                                                                 , mkCons
                                                                                 , mkNilData
                                                                                 , mkNilPairData
                                                                                 , mkPairData
                                                                                 , modInteger
                                                                                 , multiplyInteger
                                                                                 , nullList
                                                                                 , quotientInteger
                                                                                 , remainderInteger
                                                                                 , serialiseData
                                                                                 , sha2_256
                                                                                 , sha3_256
                                                                                 , sliceByteString
                                                                                 , sndPair
                                                                                 , subtractInteger
                                                                                 , tailList
                                                                                 , trace
                                                                                 , unBData
                                                                                 , unConstrData
                                                                                 , unIData
                                                                                 , unListData
                                                                                 , unMapData
                                                                                 , verifyEcdsaSecp256k1Signature
                                                                                 , verifyEd25519Signature
                                                                                 , verifySchnorrSecp256k1Signature ]

```

With the hardline it looks like 
```
Unknown built-in function 'unknown' at "bad.uplc":2:17 . 
Parsable functions are  [ addInteger
                        , appendByteString
                        , appendString
                        , bData
                        , blake2b_256
                        , chooseData
                        , chooseList
                        , chooseUnit
                        , consByteString
                        , constrData
                        , decodeUtf8
                        , divideInteger
                        , encodeUtf8
                        , equalsByteString
                        <etc>
```
which seemed better.  I just used `hardline` because that was what was used elsewhere in the file.  Is `line` better in some way?

File: plutus-core/plutus-core/src/PlutusCore/Parser/Builtin.hs [hunk 16]
```diff
@@ -87,6 +89,25 @@ conData = do
         Right d  -> pure d
         Left err -> getSourcePos >>= customFailure . InvalidData (T.pack (show err))
 
+-- Serialised BLS12_381 elements are "0x" followed by a hex string of even
+-- length.  Maybe we should just use the usual bytestring syntax.
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Parser/Builtin.hs:93]: I did it that way because you see hex strings represented like that quite a lot in the crypto world ([here](https://eips.ethereum.org/EIPS/eip-2537#specification) for example) and that made it easier to cut and paste (if you have to change the prefix it's easy to accidentally delete a digit without noticing).  It's not a big deal though.

File: plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs [hunk 17]
```diff
@@ -145,3 +157,17 @@ genConstr depth =
...
+
+genBls12_381_G2_Element :: Gen Crypto.BLS12_381.G2.Element
+genBls12_381_G2_Element = Crypto.BLS12_381.G2.hashToGroup <$> genByteString
+
+genBls12_381_MlResult :: Gen Crypto.BLS12_381.Pairing.MlResult
+genBls12_381_MlResult = do
+  p1 <- genBls12_381_G1_Element
+  p2 <- genBls12_381_G2_Element
+  case Crypto.BLS12_381.Pairing.millerLoop p1 p2 of
+    Left e  -> error $ "BLS12-381 Miller loop failed in genBls12_381_MlResult" ++ (show e)
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs:172]: `millerLoop` should succeed on all points in G1 and G2, but I think the C library function may fail if you give it points which are on the curve but not in the subgroup (which we should never be able to get anyway).  I suppose the Haskell function that calls the C function can't just fail if the points aren't in the group, so it has to return an `Either` and then we have to deal with it here.  I thought it would probably be OK to have `error` in tests and benchmarks.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs [hunk 18]
```diff
@@ -0,0 +1,107 @@
...
+             Left err -> fail $ show err
+             Right e  -> pure $ Element e
+    encode = encode . BlstBindings.blsCompress @BlstBindings.Curve2 . unElement
+    size = size . compress
+instance NFData Element where
+    rnf _ = ()
+
+-- | Add two G2 group elements
+add :: Element -> Element -> Element
+add (Element a) (Element b) = Element $ BlstBindings.blsAddOrDouble @BlstBindings.Curve2 a b
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs:55]: Yes, that's the right one.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs [hunk 19]
```diff
@@ -0,0 +1,107 @@
...
+     * The bytestring does represent a point on the E2 curve, but the
+       point is not in the G2 subgroup
+-}
+-- TODO: perhaps make this emit the error in the Left case.
+uncompress :: ByteString -> Either BlstBindings.BLSTError Element
+uncompress = second Element . BlstBindings.blsUncompress @BlstBindings.Curve2
+
+-- Take an arbitrary bytestring and hash it to a get point on the curve;
+hashToGroup :: ByteString -> Element
+hashToGroup s = Element $ BlstBindings.blsHash @BlstBindings.Curve2 s Nothing Nothing
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs:87]: Good question.  The C function has a [couple of optional arguments](https://github.com/input-output-hk/cardano-base/blob/66662d497db74f99b78198c6bc510e597125b815/cardano-crypto-class/src/Cardano/Crypto/EllipticCurve/BLS12_381/Internal.hs#L758), but I can't work out what they're for.  @iquerejeta ?

File: plutus-benchmark/bls-benchmarks/exe/Main.hs (hunk 4 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/exe/Main.hs:29]: Yes, from `plutus-benchmark/ed25519-throughput/Main.hs`.  There's a ticket to put these somewhere global, but it hasn't been done yet.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 6 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:50]: I think there's stuff like that all over the place.  I think people want slightly different things in different places and it's easier just to make up a type every time you need one.  Typing the full types is a pain.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 9 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:183]: They're compressed.  I think I changed the name at come point and forgot to change it here.  I've fixed that now.  Well spotted.

File: plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs [hunk 20]
```diff
@@ -122,6 +124,10 @@ minimalBuiltin (SomeTypeIn uni) = case toSingKind uni of
     go (DefaultUniProtoList `DefaultUniApply` _)                        = []
     go (DefaultUniProtoPair `DefaultUniApply` a `DefaultUniApply` b)    = (go a, go b)
     go (f  `DefaultUniApply` _ `DefaultUniApply` _ `DefaultUniApply` _) = noMoreTypeFunctions f
+    go DefaultUniBLS12_381_G1_Element                                   = Crypto.BLS12_381.G1.zero
+    go DefaultUniBLS12_381_G2_Element                                   = Crypto.BLS12_381.G2.zero
+    go DefaultUniBLS12_381_MlResult                                     = error "No representation for MlResult elements"
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs:129]: Yeah, don't know.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G1.hs
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G1.hs:1]: Done.  That required quite a lot of changes...

File: plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs [hunk 21]
```diff
@@ -0,0 +1,64 @@
...
+-- never want MlResult values in serialised scripts, so the decoding and
+-- encoding functions just raise errors.
+instance Flat MlResult where
+    decode = fail "BLS12_381.Pairing.MlResult: flat decoding disallowed"
+    encode = error "BLS12_381.Pairing.MlResult: flat encoding disallowed"
+    size _ = id
+instance NFData MlResult where
+    rnf _ = ()
+
+-- TODO: perhaps make this emit the error in the Left case.
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs:48]: I meant that we could do something like [this](https://github.com/input-output-hk/plutus/blob/411cf29bfbffbab6a4e6a31ef783cd52362affdf/plutus-core/plutus-core/src/Crypto.hs#L52), where error messages are logged properly.  I'm not sure about that though (I tried briefly and it got a bit out of hand so I stuck to the simple thing).

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 10 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:318]: I did that.  I'm not sure whether it's better, but it's certainly _different_.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs [hunk 22]
```diff
@@ -0,0 +1,107 @@
...
+    pretty = pretty . show
+instance PrettyBy ConstConfig Element where
+    prettyBy _ = pretty
+instance Flat Element where
+    decode = do
+        x <- decode
+        case BlstBindings.blsUncompress @BlstBindings.Curve2 x of
+             Left err -> fail $ show err
+             Right e  -> pure $ Element e
+    encode = encode . BlstBindings.blsCompress @BlstBindings.Curve2 . unElement
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs]: I guess we did that for space reasons.  With compression G1 points take up 48 bytes and G2 points take up 96, but with serialisation it's 96 for G1 and 192 for G2, and some of the applications we were think about might require dozens of group points (signatures for ATMS, for example).  With the 16K script size limit you'd only be able to fit 85 G2 points into a script using serialisation (as opposed to compression) , and there'd be no room left for actual code.

[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs]: We _could_ give uses the choice of which serialisation format by adding more builtins, or maybe add boolean arguments to the `compress` and `uncompress` functions (which we'd probably want to rename) to tell them whether to use compression or not.  The question of what to do in `flat` would remain though.  Maybe we could choose a fixed format for direct `flat` serialisation and deserialisation, say the long format, and require users to compress to a bytestring and have that serialised in the normal way if they want to save space by using the short format.  That's all getting a bit complicated though.

It's worth saying something about how this works in `blst`.  All the deserialisation/uncompression functions get is a C pointer with no length information, so you have to be [careful](https://github.com/input-output-hk/cardano-base/blob/66662d497db74f99b78198c6bc510e597125b815/cardano-crypto-class/src/Cardano/Crypto/EllipticCurve/BLS12_381/Internal.hs#L709) about checking lengths in the Haskell interface.  If you just pass the contents of eg a two-byte Haskell bytestring directly to the C function, it'll read a whole 48/96/192 bytes regardless,  with possibly hilarious consequences.

File: plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs (hunk 17 above)
[the remark this answers is not in the document]
Comment (iquerejeta) [reply plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs:172]: Ahá, very good catch. This is indeed a leftover. Before we did have the possibility of failure, because we allowed G1Elements to not be part of the subgroup, so we had to check that. Now that we enforce at type level that G1Elements are part of the subgroup, the millerLoop will not fail. I'll change that in base.

**Review by iquerejeta — COMMENTED** [review]
Loved the description of the PR. I'm going to use this to describe pairings in the future 💯

File: plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs (hunk 22 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/G2.hs]: > However, I see a problem with costing of the function. It would no longer be constant.

Yes, that's right.  We'd need some kind of switch in the costing machinery to take account of which method we're using.  That'd be possible (there are already some costing functions that are split into multiple parts) but a bit annoying, so it might be simpler to add four extra built-in functions for the non-compact serialisation format. I guess there's a trade-off about how you deal with the complexity introduced by adding new functionality.

File: plutus-metatheory/src/Raw.lagda [hunk 23]
```diff
@@ -92,6 +99,7 @@ decTermCon (bool b) (bool b') with b Data.Bool.≟ b'
 ... | yes p = true
 ... | no ¬p = false
 decTermCon unit unit = true
+-- FIXME: not sure what to do about the BLS types here.
```
Comment (mjaskelioff) [inline plutus-metatheory/src/Raw.lagda:102]: This function is currently used by NEAT tests, to see if the term returned by two evaluations of the a generated term are the same (agda-plc vs plc, agda-plc vs uplc, or different modes within agda-plc). As long as NEAT doesn't generate results with these new values, it shouldn't matter.

Comment (mjaskelioff) [reply plutus-metatheory/src/Raw.lagda:102]: Do these types have a comparison function in Haskell?

File: plutus-metatheory/src/Builtin/Constant/Type.lagda.md [hunk 24]
```diff
@@ -22,30 +22,35 @@ module Builtin.Constant.Type
...
+--{-# FOREIGN GHC pattern TyString               = SomeTypeIn DefaultUniString     #-}
+--{-# FOREIGN GHC pattern TyUnit                 = SomeTypeIn DefaultUniUnit       #-}
+--{-# FOREIGN GHC pattern TyBool                 = SomeTypeIn DefaultUniBool       #-}
+--{-# FOREIGN GHC pattern TyList a               = SomeTypeIn DefaultUniList a     #-}
+--{-# FOREIGN GHC pattern TyPair a b             = SomeTypeIn DefaultUniPair a b   #-}
+--{-# FOREIGN GHC pattern TyData                 = SomeTypeIn DefaultUniData       #-}
+--{-# FOREIGN GHC pattern TyBLS12_381_G1_Element = SomeTypeIn DefaultUniBLS12_381_G1_Element #-}
+--{-# FOREIGN GHC pattern TyBLS12_381_G2_Element = SomeTypeIn DefaultUniBLS12_381_G2_Element #-}
+--{-# FOREIGN GHC pattern TyBLS12_381_MlResult   = SomeTypeIn DefaultUniBLS12_381_MlResult   #-}
+--{-# COMPILE GHC TyCon  = data TypeBuiltin (TyInteger | TyByteString | TyString | TyUnit | TyBool | TyList | TyPair | TyData | TyBLS12_381_G1_Element | TyBLS12_381_G2_Element | TyBLS12_381_MlResult) #-}
```
Comment (mjaskelioff) [inline plutus-metatheory/src/Builtin/Constant/Type.lagda.md:55]: This code was commented. I'm guessing it's the remains of some experiment...

File: plutus-metatheory/src/Raw.lagda [hunk 25]
```diff
@@ -114,6 +122,23 @@ decBuiltin verifySchnorrSecp256k1Signature verifySchnorrSecp256k1Signature = tru
...
+decBuiltin bls12-381-G2-add bls12-381-G2-add = true
+decBuiltin bls12-381-G2-neg bls12-381-G2-neg = true
+decBuiltin bls12-381-G2-scalarMul bls12-381-G2-scalarMul = true
+decBuiltin bls12-381-G2-equal bls12-381-G2-equal = true
+decBuiltin bls12-381-G2-hashToGroup bls12-381-G2-hashToGroup = true
+decBuiltin bls12-381-G2-compress bls12-381-G2-compress = true
+decBuiltin bls12-381-G2-uncompress bls12-381-G2-uncompress = true
+decBuiltin bls12-381-millerLoop bls12-381-millerLoop = true
+decBuiltin bls12-381-mulMlResult bls12-381-mulMlResult = true
+decBuiltin bls12-381-finalVerify bls12-381-finalVerify = true
```
Comment (mjaskelioff) [inline plutus-metatheory/src/Raw.lagda:141]: I'm planning on automating the definition of this function in this sprint.

**Review by mjaskelioff — APPROVED** [review]
What a massive PR! Great work! I've only reviewed the Agda part. 

I'm sorry that you had to define a lot of trivial cases in many functions. I've been working on making easier to define new builtin *functions*, but adding builtin *types* is still a big pain, and clearly there is room for improvement.

File: plutus-benchmark/bls-benchmarks/exe/Main.hs (hunk 3 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/exe/Main.hs:6]: We could also check in the output as a golden file.

File: plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs (hunk 17 above)
[the remark this answers is not in the document]
Comment (iquerejeta) [reply plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs:172]: The merged version of the bindings does not return an `Either` here anymore.

File: plutus-metatheory/src/Builtin/Constant/Type.lagda.md (hunk 24 above)
Comment (kwxm) [reply plutus-metatheory/src/Builtin/Constant/Type.lagda.md:55]: In that case I'm going to delete it.

File: plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs (hunk 17 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/Hedgehog/Builtin.hs]: I have now fixed that.

File: plutus-metatheory/src/Raw.lagda (hunk 25 above)
Comment (kwxm) [reply plutus-metatheory/src/Raw.lagda:141]: I did wonder if there was some better way to do that. I spent ages rearranging all of the cases so that I could see which ones were missing!

File: plutus-metatheory/src/Raw.lagda (hunk 23 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-metatheory/src/Raw.lagda:102]: > Do these types have a comparison function in Haskell?

The `g1-element` and `g2-element` types have a Haskell comparison function (also available as a builtin in Plutus Core), but `mlresult` doesn't.

**Comment by kwxm** [comment]
I've now got this depending on a version of `cardano-base` (as a source-repository-package) that has the BLS bindings merged.  There still seems to be a problem finding `libblist.a` though.  For the time being I've added an `extra-lib-dirs: /usr/local/lib` entry in `plutus-core.cabal` to tell the linker where to find a local copy, but that'll have to be fixed before merging this.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs [hunk 26]
```diff
@@ -0,0 +1,64 @@
...
+instance Pretty MlResult where
+    pretty = pretty . show
+instance PrettyBy ConstConfig MlResult where
+    prettyBy _ = pretty
+-- We need a Flat instance to get everything to build properly; however we'll
+-- never want MlResult values in serialised scripts, so the decoding and
+-- encoding functions just raise errors.
+instance Flat MlResult where
+    decode = fail "BLS12_381.Pairing.MlResult: flat decoding disallowed"
+    encode = error "BLS12_381.Pairing.MlResult: flat encoding disallowed"
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs]: I'm not sure what to do there.  I think that the only way this could arise is if someone creates an `MlResult` value in Haskell and then tries to serialise it (we don't have any concrete syntax for constants of this type, and we don't provide any serialisation method in PLC). Maybe it's better to issue an error as early as possible to tell the user that they're doing something silly rather than silently serialising a fake value and then exploding at deserialisation time.

File: plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs (hunk 21 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/Crypto/BLS12_381/Pairing.hs]: This no longer applies, since `millerLoop` always succeeds now.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 7 above)
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:112]: I think I left that in there by accident.  I've removed it and the other one.

**Comment by kwxm** [comment]
> Loved the description of the PR. I'm going to use this to describe pairings in the future 100 I didn't quite understand this sentence though:
> 
> > It's not at all obvious that a situation like this should even exist: there's some very complicated mathematics going on behind the scenes.
> 
> What do we mean by that?

I was talking about the fact that you have these three groups in apparently quite different contexts but they all happen to be isomorphic, _and_ there's a pairing as well.  I've edited it in an attempt to be more explicit about what I was trying to say.

**Comment by kwxm** [comment]
I think this should be ready for re-review now, but we still need to sort out the problem with blst in nix/cabal before merging.

**Review by michaelpj — APPROVED** [review]
Phew! What a lot of stuff. I think it looks pretty good to me, though.

**Comment by michaelpj** [comment]
I think you might be able to update `iohk-nix` again and remove some of the nix workarounds now.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 27]
```diff
@@ -0,0 +1,325 @@
...
+mkG1Element = CompressedG1Element . toBuiltin . BS.pack
+
+newtype CompressedG2Element = CompressedG2Element { g2 :: BuiltinByteString }
+    deriving newtype (Tx.Lift DefaultUni)
+
+mkG2Element :: [Word8] -> CompressedG2Element
+mkG2Element = CompressedG2Element . toBuiltin . BS.pack
+
+scalar :: Integer
+scalar = 0x1884d0cbcc5947434e46d19b3e904e18a8ee8d0d39ce9d315f3b00e338c8f618
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:172]: That's just some of the data from the URL mentioned earlier, like the byte arrays that follow.

File: plutus-core/plutus-core.cabal [hunk 28]
```diff
@@ -40,7 +40,7 @@ source-repository head
 flag with-inline-r
   description: Enable build of packages that use `inline-r`.
   manual:      True
-  default:     False
+  default:     True
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core.cabal:43]: > Don't do this!

Sorry!  I've changed it back.  Maybe I had to do that when we were waiting for the inline-r update and then forgot about it?

File: plutus-benchmark/bls-benchmarks/exe/Main.hs [hunk 29]
```diff
@@ -0,0 +1,161 @@
+-- editorconfig-checker-disable-file
+{-# LANGUAGE NumericUnderscores #-}
+{-# OPTIONS_GHC -Wno-unused-top-binds #-}
+{-# OPTIONS_GHC -Wno-name-shadowing #-}
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/exe/Main.hs:4]: > do w need to turn these off?

Apparently not.  Maybe left over from earlier experiments.

File: cabal.project [hunk 30]
```diff
@@ -10,6 +10,14 @@ repository cardano-haskell-packages
     c00aae8461a256275598500ea0e187588c35a5d5d7454fb57eac18d9edb86a56
     d4a35cd3121aa00d18544bb0ac01c3e1691d618f462c46129271bccf39f7e8ee
 
+-- A temporary source-repository-package so that we get the BLS bindings in cardano-base.
+-- FIXME: delete this when the version in CHaP is updated.
```
[the remark this answers is not in the document]
Comment (angerman) [reply cabal.project:18]: Can we please get this into CHaP, before we add SRPs again? Chap is under our control. @lehins, I believe you are currenlty in charge of cardano-base or am I mistaken?

File: nix/cells/plutus/library/make-plutus-project.nix (hunk 1 above)
Comment (angerman) [reply nix/cells/plutus/library/make-plutus-project.nix:162]: pkg-config logic should be in the most recent iohk-nix.

File: plutus-core/plutus-core/src/PlutusCore/Crypto/BLS12_381/Pairing.hs [hunk 31]
```diff
@@ -0,0 +1,63 @@
...
+    show _ = "<opaque>"
+instance Pretty MlResult where
+    pretty = pretty . show
+instance PrettyBy ConstConfig MlResult where
+    prettyBy _ = pretty
+-- We need a Flat instance to get everything to build properly; however we'll
+-- never want MlResult values in serialised scripts, so the decoding and
+-- encoding functions just raise errors.
+instance Flat MlResult where
+    decode = fail "BLS12_381.Pairing.MlResult: flat decoding disallowed"
```
[the remark this answers is not in the document]
Comment (michaelpj) [reply plutus-core/plutus-core/src/PlutusCore/Crypto/BLS12_381/Pairing.hs:42]: Yeah, I was trying to convey the fact that when we're decoding we can actually fail "in the monad" rather than calling error like we do for encoding

File: cabal.project (hunk 30 above)
[the remark this answers is not in the document]
Comment (michaelpj) [reply cabal.project:18]: Yes, we're not going to merge this with a s-r-p. Doing this for a pre-release is fine though.

File: plutus-metatheory/test/ii.plc
Comment (kwxm) [inline plutus-metatheory/test/ii.plc:1]: I'm not sure where these files came from.

File: plutus-metatheory/src/Untyped/CEK.lagda.md [hunk 32]
```diff
@@ -485,8 +485,8 @@ step (s ; ρ ▻ ƛ t)       = s ◅ V-ƛ ρ t
 step (s ; ρ ▻ (t · u))   = (s , -· ρ u) ; ρ ▻ t
 step (s ; ρ ▻ force t)   = (s , force-) ; ρ ▻ t
 step (s ; ρ ▻ delay t)   = s ◅ V-delay ρ t
-step (s ; ρ ▻ con (tmCon t c)) = s ◅ V-con t c
-step (s ; ρ ▻ builtin b) = s ◅ ival b
+step (s ; ρ ▻ con (tmCon t c)) = s ◅ V-con (con t c
+step (s ; ρ ▻ builtin b)) = s ◅ ival b
```
Comment (angerman) [inline plutus-metatheory/src/Untyped/CEK.lagda.md]: @michaelpj I stumbled over this during the merge. I'm not sure I follow the logic behind the left open paren on L488, and the closed on on L489.

I believe this is now gone _after_ my merge. But I'm unsure if I did that right.

**Comment by michaelpj** [comment]
I bumped haskell.nix on master recently, you might just want to pull that in to get something already cached.

File: plutus-metatheory/src/Untyped/CEK.lagda.md (hunk 32 above)
Comment (angerman) [reply plutus-metatheory/src/Untyped/CEK.lagda.md]: @kwxm this one.

Comment (kwxm) [reply plutus-metatheory/src/Untyped/CEK.lagda.md]: That's definitely wrong.  I'm not sure how it got like that.

Comment (mjaskelioff) [reply plutus-metatheory/src/Untyped/CEK.lagda.md]: I saw this when I reviewed it, but when I checked out the file it was fine. Might be a glitch in the diff generation?

File: plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs [hunk 33]
```diff
@@ -254,3 +257,15 @@ instance ExMemoryUsage Data where
             List l     -> CostRose 0 $ l <&> sizeData
             I n        -> memoryUsage n
             B b        -> memoryUsage b
+
+instance ExMemoryUsage BLS12_381.G1.Element where
+    memoryUsage _ = singletonRose . unsafeToSatInt $ BLS12_381.G1.memSizeBytes `div` 8
```
Comment (effectfully) [inline plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs:262]: Chances are, GHC is going to optimize it properly and pull the whole thing to the top level where it can be shared, but I'd still do it manually just to make sure.

File: plutus-core/plutus-core/src/PlutusCore/Parser/Builtin.hs (hunk 16 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-core/plutus-core/src/PlutusCore/Parser/Builtin.hs:93]: Strong +1 on using `0x` for BLS12_381 elements, no opinion on bytestrings.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs [hunk 34]
```diff
@@ -122,6 +126,26 @@ instance ArbitraryBuiltin ByteString where
     arbitraryBuiltin = Text.encodeUtf8 <$> arbitraryBuiltin
     shrinkBuiltin = map Text.encodeUtf8 . shrinkBuiltin . Text.decodeUtf8
 
+instance ArbitraryBuiltin BLS12_381.G1.Element where
+    arbitraryBuiltin =
+      BLS12_381.G1.hashToGroup <$> arbitrary <*> pure Data.ByteString.empty >>= \case
+      -- We should only get a failure if the second argument is greater than 255 bytes, which it isn't.
+           Left err -> error $ show err
+           Right p  -> pure p
+    shrinkBuiltin _ = []
```
Comment (effectfully) [inline plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:135]: There's a zero element, right? Can we shrink to it, if it's not zero already? What about one? Worth some discussion at least.

File: plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs [hunk 35]
```diff
@@ -122,6 +124,10 @@ minimalBuiltin (SomeTypeIn uni) = case toSingKind uni of
     go (DefaultUniProtoList `DefaultUniApply` _)                        = []
     go (DefaultUniProtoPair `DefaultUniApply` a `DefaultUniApply` b)    = (go a, go b)
     go (f  `DefaultUniApply` _ `DefaultUniApply` _ `DefaultUniApply` _) = noMoreTypeFunctions f
+    go DefaultUniBLS12_381_G1_Element                                   = BLS12_381.G1.zero
+    go DefaultUniBLS12_381_G2_Element                                   = BLS12_381.G2.zero
+    go DefaultUniBLS12_381_MlResult                                     = error "No representation for MlResult elements"
```
Comment (effectfully) [inline plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs:129]: Are you saying here that there's absolutely no way to construct a `BLS12_381_MlResult`? That doesn't sound right. Like, you're supposed to return _something_ here, it doesn't need to be something specific, just literally anything. Can be a result of some function or whatever.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs [hunk 36]
```diff
@@ -122,6 +126,26 @@ instance ArbitraryBuiltin ByteString where
...
+      BLS12_381.G2.hashToGroup <$> arbitrary <*> pure Data.ByteString.empty >>= \case
+      -- We should only get a failure if the second argument is greater than 255 bytes, which it isn't.
+           Left err -> error $ show err
+           Right p  -> pure p
+    shrinkBuiltin _ = []
+
+instance ArbitraryBuiltin BLS12_381.Pairing.MlResult where
+    arbitraryBuiltin = BLS12_381.Pairing.millerLoop <$> arbitraryBuiltin <*> arbitraryBuiltin
+    shrinkBuiltin _ = []
+
```
Comment (effectfully) [inline plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:148]: It looks like you didn't update the

```haskell
instance KnownKind k => Arbitrary (MaybeSomeTypeOf k) where
```

instance in this file in order to actually enable generation of the new built-in types.

We need to somehow throw a warning/error in this case, but not quite sure how, or make a test that fails, or something, it's way too easy to miss that.

File: plutus-metatheory/changelog.d/20230221_161618_mjaskelioff_abstract_signatures.rst [hunk 37]
```diff
@@ -1,32 +0,0 @@
...
-..
-.. - A bullet item for the Removed category.
-..
-# Added
-
-Implemented abstract signatures.
-
-# Changed
-
-Changed type of mkCons builtin to match implementation.
```
Comment (effectfully) [inline plutus-metatheory/changelog.d/20230221_161618_mjaskelioff_abstract_signatures.rst:16]: Intentional?

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md [hunk 38]
```diff
@@ -265,6 +265,31 @@ BUILTIN headList {A} bapp = inj₁ A --unimplemented
...
+BUILTIN bls12-381-G2-hashToGroup (app (app base (V-con (tmBytestring msg))) (V-con (tmBytestring dst))) with BLS12-381-G2-hashToGroup msg dst
+... | nothing = inj₁ (con bls12-381-g2-element)
+... | just p  = inj₂ (V-con (tmBls12-381-g2-element p))
+BUILTIN bls12-381-G2-compress (app base (V-con (tmBls12-381-g2-element e))) = inj₂ (V-con (tmBytestring (BLS12-381-G2-compress e)))
+BUILTIN bls12-381-G2-uncompress (app base (V-con (tmBytestring b))) with BLS12-381-G2-uncompress b
+... | nothing = inj₁ (con bls12-381-g2-element)
+... | just e  = inj₂ (V-con (tmBls12-381-g2-element e))
+BUILTIN bls12-381-millerLoop (app (app base (V-con (tmBls12-381-g1-element e1))) (V-con (tmBls12-381-g2-element e2))) = inj₂ (V-con (tmBls12-381-mlresult (BLS12-381-millerLoop e1 e2)))
+BUILTIN bls12-381-mulMlResult (app (app base (V-con (tmBls12-381-mlresult r))) (V-con (tmBls12-381-mlresult r'))) = inj₂ (V-con (tmBls12-381-mlresult (BLS12-381-mulMlResult r r')))
+BUILTIN bls12-381-finalVerify (app (app base (V-con (tmBls12-381-mlresult r))) (V-con (tmBls12-381-mlresult r'))) = inj₂ (V-con (tmBool (BLS12-381-finalVerify r r')))
```
Comment (effectfully) [inline plutus-metatheory/src/Algorithmic/CEK.lagda.md:292]: Jeez.

File: plutus-metatheory/src/Untyped/CEK.lagda.md [hunk 39]
```diff
@@ -402,6 +402,86 @@ BUILTIN mkNilPairData = λ
...
+  ;  _ -> inj₁ userError
+  }
+BUILTIN bls12-381-mulMlResult = λ
+  { (app (app base (V-con (con bls12-381-mlresult) r)) (V-con (con bls12-381-mlresult) r')) -> inj₂ (V-con (con bls12-381-mlresult) (BLS12-381-mulMlResult r r'))
+  ; _ -> inj₁ userError
+  }
+BUILTIN bls12-381-finalVerify = λ
+  { (app (app base (V-con (con bls12-381-mlresult) r)) (V-con (con bls12-381-mlresult) r')) -> inj₂ (V-con (con bool) (BLS12-381-finalVerify r r'))
+  ; _ -> inj₁ userError
+  }
```
Comment (effectfully) [inline plutus-metatheory/src/Untyped/CEK.lagda.md:484]: @michaelpj since you're the primary hater of the extensible builtins machinery :stuck_out_tongue:, imagine doing this in the CK and CEK machines on the Haskell side as well (and dread adding new evaluation engines), except while maintaining all the optimization tricks that the builtin machinery does for you.

File: plutus-tx/src/PlutusTx/Builtins/Internal.hs [hunk 40]
```diff
@@ -505,3 +510,145 @@ equalsData (BuiltinData b1) (BuiltinData b2) = BuiltinBool $ b1 Haskell.== b2
...
+exported by the Haskell bindings for the `blst` library are ForeignPtrs which
+have to be wrapped in newtypes to keep the PLC builtin machinery happy.
+However, there's a further complication in PlutusTx: if you try to use the
+newtypes directly then the plugin sees through the newtypes to the foreign
+pointers and fails because it doesn't know how to handle them.  To avoid this we
+further wrap the newtypes in datatypes here.  We could have done this in Plutus
+Core by using `data` instead of `newtype`, but then the code here dealing with
+BLS types and builtins doesn't look like the code for the other builtins.
+Because of this it seemed safer and more uniform to add the datatype wrapper
+here rather than in the Plutus Core code.
```
Comment (effectfully) [inline plutus-tx/src/PlutusTx/Builtins/Internal.hs:531]: Great Note.

**Review by effectfully — COMMENTED** [review]
Truly amazing job. I've reviewed everything apart from tests and the actual crypto logic. Not sure if I should even bother with crypto stuff given my lack of expertise, but I'll take a look at tests later.

Most comments are nitpicks and rambling.

I would be very keen to learn about your experience with the builtins machinery. Was it hard, annoying etc to deal with it? I can imagine those mandatory `newtype`s were pretty annoying and I plan to look into it some time. Anything else?

**Review by angerman — CHANGES_REQUESTED** [review]
This PR manages to blow up on apple silicon (macOS on aarch64) as well as windows cross (from linux) in a rather interesting, yet concerning way.

For some yet unknown reason, compiling `PlutusCore.Version`, breaks on both target platforms. On macOS it outright crashes with the kernel killing the process due to some bad access in the attoparsec library 😕 
On windows, the TH splice evaluation takes forever.

My guess is it's https://github.com/input-output-hk/plutus/blob/fe62965c7c496afdaef892b4f4fa8573fea2a3db/plutus-core/plutus-core/src/PlutusCore/Version.hs#L49

but I can't say for certain.

File: plutus-benchmark/changelog.d/20230310_185153_effectfully_stop_the_irrelevance.rst [hunk 41]
```diff
@@ -1,4 +0,0 @@
-Fixed
------
-
-- Made the `validation` benchmarks use the actual production evaluator (#5200)
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/changelog.d/20230310_185153_effectfully_stop_the_irrelevance.rst:4]: I'd forgotten about this, but it's intentional: we're not keeping a changelog for `plutus-benchmark`.  See https://github.com/input-output-hk/plutus/blob/master/CONTRIBUTING.adoc#changelogs and a Slack discussion on the 23rd of March.

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md (hunk 38 above)
Comment (kwxm) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:292]: Yes, that's very difficult to type. There were also some merge problems a few days ago where it seemed that git just couldn't cope with changed parenthesisation.

File: plutus-benchmark/bls-benchmarks/exe/Main.hs [hunk 42]
```diff
@@ -0,0 +1,161 @@
...
+max_tx_ex_mem = 14_000_000
+
+-------------------------------- Printing --------------------------------
+
+-- Printing utilities
+percentage :: (Integral a, Integral b) => a -> b -> Double
+percentage a b =
+    let a' = fromIntegral a :: Double
+        b' = fromIntegral b :: Double
+    in (a'/b' * 100)
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/exe/Main.hs]: OK, I've done that.  It gets rounded to 1 decimal place in the `printf` though, so that kind of thing should be invisible anyway.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 43]
```diff
@@ -0,0 +1,326 @@
+-- editorconfig-checker-disable-file
+{-# LANGUAGE DataKinds         #-}
+{-# LANGUAGE NoImplicitPrelude #-}
+{-# LANGUAGE TemplateHaskell   #-}
+{-# LANGUAGE ViewPatterns      #-}
+
+{-# OPTIONS_GHC -Wno-name-shadowing #-}
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs]: Yeah, OK.  Annoyingly we need both Haskell and PLC versions of those big hexarrays so I'd just called them both the same thing when I was trying to get it to work.  I've added primes to the duplicates now.

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_compress/compress/compress.uplc [hunk 44]
```diff
@@ -0,0 +1,7 @@
+-- Check that compression of a random point in G1 succeeds and gives the expected result.
+(program 1.0.0
+ [
+  (builtin bls12_381_G1_compress)
+  (con  bls12_381_G1_element 0x950dfd33da2682260c76038dfb8bad6e84ae9d599a3c151815945ac1e6ef6b1027cd917f3907479d20d636ce437a41f5)
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_compress/compress/compress.uplc:5]: > How do we know that the result is expected? To me it's just a random bytestring :)

That's cryptography for you!  But yes, at the moment these tests (or at least some of them) are just checking that our implementation agrees with its past self, or that other implementations agree with ours.  There should be standard tests for some of the operations though: see PLT-5391.  @iquerejeta has been looking into this.

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_neg/add-neg/add-neg.uplc [hunk 45]
```diff
@@ -0,0 +1,13 @@
+-- Check that adding a random point to its negative gives the zero element.
+(program 1.0.0
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_neg/add-neg/add-neg.uplc:2]: > Why not property tests? Here and in other places.

Pure laziness (appropriately for Haskell).  There are property tests for things like that [here](https://github.com/input-output-hk/plutus/blob/513f4e63f72cd90b02fdf19c1e97ff64b6ecb95d/plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs#L80), and it was a lot easier to put those in `plutus-core`.  Ultimately we should probably make all of those (and also tests for other builtins) into conformance tests.  There's a ticket for that at PLT-1303; I guess it would make sense to do that separately.

File: plutus-core/plutus-core/src/PlutusCore/Default/Universe.hs [hunk 46]
```diff
@@ -437,3 +478,7 @@ instance Closed DefaultUni where
     bring _ (f `DefaultUniApply` _ `DefaultUniApply` _ `DefaultUniApply` _) _ =
         noMoreTypeFunctions f
     bring _ DefaultUniData r = r
+    bring _ DefaultUniBLS12_381_G1_Element r = r
+    bring _ DefaultUniBLS12_381_G2_Element r = r
+    bring _ DefaultUniBLS12_381_MlResult  r = r
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Default/Universe.hs:483]: It wasn't too bad, although the problem with the newtypes and the fact that the `MlResult` type is opaque and non-serialisable were unexpected and caused some difficulties.  Fortunately it turned out to be not too difficult to sort those out though.

File: plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs (hunk 35 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusIR/Generators/QuickCheck/ShrinkTerms.hs:129]: I guess we could pair the zero elements for G1 and G2 to get the identity element in `MlResult`.  I'll give that a try.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs (hunk 34 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:135]: > There's a zero element, right? Can we shrink to it, if it's not zero already?

I guess so, although I'm not sure how meaningful that would be.  I don't think there's any sensible way to shrink these group elements in general: if we could come up with one it might even indicate some cryptographic weakness.

File: plutus-metatheory/changelog.d/20230221_161618_mjaskelioff_abstract_signatures.rst (hunk 37 above)
Comment (kwxm) [reply plutus-metatheory/changelog.d/20230221_161618_mjaskelioff_abstract_signatures.rst:16]: Apparently we also don't have a changelof for `plutus-metatheory`.

**Comment by kwxm** [comment]
> This PR manages to blow up on apple silicon (macOS on aarch64) as well as windows cross (from linux) in a rather interesting, yet concerning way.

It's weird if it's just this PR.  I've had a quick look at some other failing PRs and they seem to be going wrong for other reasons.  The `makeLenses ''Version ` line has been in the codebase since at least [this commit](https://github.com/input-output-hk/plutus/commit/48c326a1c155be44b67a366241eb29c80e3beed2), which was three months ago, so it's kind of strange if it's only now started causing a problem.

**Comment by angerman** [comment]
@kwxm not that surprising. I believe makeLenses likely uses some TH faculty for code generation. Anything that directly or indirectly lies in that code path (extended datatypes; change to functions being called), can cause you he rather innocently looking makeLenses to fail. It is it could also be the generated code itself.

**Comment by angerman** [comment]
I've flagged this with our GHC team to investigate.

**Comment by michaelpj** [comment]
Hmm, is this why all our jobs have been getting aborted? I assumed that was hardware issues but maybe not...

**Comment by angerman** [comment]
> Hmm, is this why all our jobs have been getting aborted? I assumed that was hardware issues but maybe not...

The Mac jobs potentially yes, the windows jobs, no.

File: plutus-benchmark/bls-benchmarks/bench/Bench.hs [hunk 47]
```diff
@@ -0,0 +1,64 @@
...
+
+import Data.ByteString qualified as BS (empty)
+
+benchProgCek :: UProg -> Benchmarkable
+benchProgCek (UPLC.Program _ _ t) = benchTermCek t
+
+benchHashAndAddG1 :: Integer -> Benchmark
+benchHashAndAddG1 n =
+    let prog = mkHashAndAddG1Script (listOfSizedByteStrings n 4)
+    in bench (show n) $ benchProgCek prog
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/bench/Bench.hs:22]: > Here you include the cost of constructing prog in the benchmarking results due to let being lazy, right? Is this intentional? Worth a comment.

That's a good point, and something that hadn't occurred to me.  However, I'm not sure that this does include the cost of constructing the program. I tried adding some `let !`s after seeing this and it didn't seem to make much difference (+/- 2%), although that was just on my laptop. Ultimately all of these benchmarks (including the validation benchmarks) call [benchTermCek](https://github.com/input-output-hk/plutus/blob/b9b7cdbc4c5e723a0c163d37cff3f8f25cd81c83/plutus-benchmark/common/PlutusBenchmark/Common.hs#L79), which is 
```
benchTermCek term =
    nf (runTermCek) $! term -- Or whnf?
```
Shouldn't the `$!` force the term before running the benchmark?  I've never been completely confident about this, so I'm glad you raised the matter.

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_add/add-zero/add-zero.uplc [hunk 48]
```diff
@@ -0,0 +1,10 @@
+-- Adding the zero element to a random point doesn't change it.
+(program 1.0.0
+ [
+  [
+   (builtin bls12_381_G1_add)
+   (con bls12_381_G1_element 0xabd61864f519748032551e42e0ac417fd828f079454e3e3c9891c5c29ed7f10bdecc046854e3931cb7002779bd76d71f)
+  ]
+  (con bls12_381_G1_element 0xc00000000000000000000000000000000000000000000000000000000000000000000000000000000000000000000000)
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_add/add-zero/add-zero.uplc:8]: I wondered about that, but maybe it's better to have the program output something that you can actually look at rather than just True/False.  Not sure.

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_hashToGroup/hash-empty-dst/hash-empty-dst.uplc [hunk 49]
```diff
@@ -0,0 +1,10 @@
+-- Check that hashing a random bytestring with an empty DST gives the expected result.
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_hashToGroup/hash-empty-dst/hash-empty-dst.uplc:1]: One thing that worries me here is that with the golden testing infrastructure you can just say `--accept` and override whatever's in the golden file, even if it should never change.  Maybe that's a good reason to include the expected result in the source rather than just having it checked  in, but as mentioned in a previous comment that makes it harder to see what's going on if something goes wrong.

File: plutus-core/plutus-core/src/PlutusCore/Crypto/BLS12_381/G1.hs [hunk 50]
```diff
@@ -0,0 +1,149 @@
...
+instance Flat Element where
+    decode = do
+      x <- decode
+      case uncompress x of
+             Left err -> fail $ show err
+             Right e  -> pure e
+    encode = encode . compress
+    size = size . compress
+instance NFData Element where
+    rnf _ = ()
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Crypto/BLS12_381/G1.hs:62]: I don't know.  I'm not totally sure why we need this.

[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Crypto/BLS12_381/G1.hs:62]: OK, done.

**Comment by angerman** [comment]
@hamishmack is looking into the ghcide breakage.

**Comment by kwxm** [comment]
> @hamishmack is looking into the ghcide breakage; see [input-output-hk/haskell.nix#1948](https://github.com/input-output-hk/haskell.nix/pull/1948)

OK, it all seems to be back to normal now. Thanks.

File: plutus-core/plutus-core/src/PlutusCore/Default/Builtins.hs [hunk 51]
```diff
@@ -1363,6 +1389,93 @@ instance uni ~ DefaultUni => ToBuiltinMeaning uni DefaultFun where
...
+        makeBuiltinMeaning
+            BLS12_381.G1.compress
+            (runCostingFunOneArgument . paramBls12_381_G1_compress)
+    toBuiltinMeaning _var Bls12_381_G1_uncompress =
+        makeBuiltinMeaning
+            uncompressG1
+            (runCostingFunOneArgument . paramBls12_381_G1_uncompress)
+        where uncompressG1 s =
+                  case BLS12_381.G1.uncompress s of
+                    Left _  -> EvaluationFailure
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Default/Builtins.hs]: OK, I've done that now, and added a special error type instead of a Text error.  I wondered whether to do the emission here or in the definition of the Haskell function as is done [here](https://github.com/input-output-hk/plutus/blob/2c733ab870e709fd09a888754fc02ca048334df3/plutus-core/plutus-core/src/PlutusCore/Crypto/Secp256k1.hs#L41), for example,  but eventually decided to just confine the emitter stuff to the point where we actually need it. I'm now tempted to do the same for the division by zero check [here](https://github.com/input-output-hk/plutus/blob/2c733ab870e709fd09a888754fc02ca048334df3/plutus-core/plutus-core/src/PlutusCore/Default/Builtins.hs#L170).

File: plutus-core/plutus-core/src/PlutusCore/Default/Builtins.hs [hunk 52]
```diff
@@ -1363,6 +1389,93 @@ instance uni ~ DefaultUni => ToBuiltinMeaning uni DefaultFun where
...
+                    Right p -> EvaluationSuccess p
+    toBuiltinMeaning _var Bls12_381_G1_hashToGroup =
+        makeBuiltinMeaning
+            hashToGroup
+            (runCostingFunTwoArguments . paramBls12_381_G1_hashToGroup)
+        where hashToGroup msg dst =
+                  case BLS12_381.G1.hashToGroup msg dst of
+                    Left _  -> EvaluationFailure
+                    Right p -> EvaluationSuccess p
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Default/Builtins.hs]: > Maybe define a helper function in order not to replicate this logic over and over?

I did that and got it to handle error emission as well.

File: plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs (hunk 33 above)
Comment (kwxm) [reply plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs:262]: > I'd still do it manually just to make sure.

Sorry, I'm not sure what you mean.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs (hunk 34 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:135]: OK, I've done that. I've forgotten how QuickCheck deals with shrinking though, so I'm still not sure if it makes.  What will happen if we get and error and the only thing we can shrink to is zero, which doesn't cause the error?  Does it just stop trying to shrink and give you back the thing that originally caused the problem?  I did get a non-terminating test because of something like this, but that may have been in Hedgehog.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs (hunk 36 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:148]: Oh, you're right.  Thanks for pointing that out.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs (hunk 34 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:135]: Oh.  This causes [prop_noTermShrinkLoops](https://github.com/input-output-hk/plutus/blob/924d1fcafa91da31a4a69097a48f159c6bc06b3a/plutus-core/plutus-ir/test/GeneratorSpec/Terms.hs#L175) to fail.

**Comment by angerman** [comment]
force-pushed to re-excite ci

File: plutus-metatheory/src/Algorithmic/Erasure.lagda [hunk 53]
```diff
@@ -67,12 +67,21 @@ eraseVar (S α) = just (eraseVar α)
...
+eraseTC (AC.tmString s)               = tmCon (con string) s
+eraseTC (AC.tmBool b)                 = tmCon (con bool) b
+eraseTC AC.tmUnit                     = tmCon (con unit) tt
+eraseTC (AC.tmData d)                 = tmCon (con pdata) d
+eraseTC (AC.tmInteger i)              = tmCon (con integer)  i
+eraseTC (AC.tmBytestring b)           = tmCon (con bytestring) b
+eraseTC (AC.tmString s)               = tmCon (con string) s
+eraseTC (AC.tmBool b)                 = tmCon (con bool) b
+eraseTC AC.tmUnit                     = tmCon (con unit) tt
+eraseTC (AC.tmData d)                 = tmCon (con pdata) d
```
Comment (angerman) [inline plutus-metatheory/src/Algorithmic/Erasure.lagda:81]: CI [complains](https://ci.zw3rk.com/build/2302913/nixlog/1/tail) about
```
/build/plutus-metatheory/src/Algorithmic/Erasure.lagda:76,1-81,60
Unreachable clauses
when checking the definition of eraseTC
```

Comment (angerman) [reply plutus-metatheory/src/Algorithmic/Erasure.lagda:81]: Doh! They are duplicated!

Comment (angerman) [inline plutus-metatheory/src/Algorithmic/Erasure.lagda:81]:
```suggestion
eraseTC (AC.tmInteger i)              = tmCon (con integer) i
eraseTC (AC.tmBytestring b)           = tmCon (con bytestring) b
eraseTC (AC.tmString s)               = tmCon (con string) s
eraseTC (AC.tmBool b)                 = tmCon (con bool) b
eraseTC AC.tmUnit                     = tmCon (con unit) tt
eraseTC (AC.tmData d)                 = tmCon (con pdata) d
```

File: plutus-benchmark/bls-benchmarks/bench/Bench.hs (hunk 47 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-benchmark/bls-benchmarks/bench/Bench.hs:22]: Right, my bad. Thanks for explaining.

**Comment by angerman** [comment]
Everything except for windows works 😓

**Comment by angerman** [comment]
@kwxm can you merge master into this? I'll see to get the windows crap fixed :-/ I've got a good handle on it now :-)

**Comment by angerman** [comment]
changes windows cross from 9.2 to 8.10 to validate that this is a 9.2 issue 😱

**Comment by angerman** [comment]
Fails on 8.10 as well. Very frustrating. Back to DLL analysis.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs [hunk 54]
```diff
@@ -0,0 +1,449 @@
...
+      pure $ evalTerm e2 === uplcTrue
+          where
+            repeatedAdd :: Integer -> PlcTerm -> PlcTerm
+            repeatedAdd n t =
+                if n>=0
+                then foldl' (addTerm @a) (zeroTerm @a) $ genericReplicate n t
+                else repeatedAdd (-n) (negTerm @a t)
+
+-- (m + n|G|)p = mp for all group elements p and integers m and n.
+-- We have |G1| = |G2| = scalarPeriod
```
Comment (effectfully) [inline plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs:207]: I don't understand this comment, but that's probably fine.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs [hunk 55]
```diff
@@ -0,0 +1,449 @@
...
+         , test_clear_compression_bit    @a
+         , test_flip_sign_bit            @a
+         , test_set_infinity_bit         @a
+         , test_uncompress_out_of_group  @a
+         , test_no_hash_collisions       @a
+         , test_no_hash_collisions_dst   @a
+         ]
+
+
+---------------- Pairing properties ----------------
```
Comment (effectfully) [inline plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs:370]: Not reviewing these as I don't understand anything there.

File: plutus-core/plutus-core/src/PlutusCore/Parser/Type.hs [hunk 56]
```diff
@@ -123,17 +126,21 @@ defaultUniApplication = do
 -- i.e. parse into @Tree Text@ and do the kind checking afterwards, but given that we'll still need
 -- to do the kind checking of builtins regardless (even for UPLC), we don't win much by deferring
 -- doing it.
+-- We don't support constants of type bls12_381_mlresult, so there's no case for that.
 defaultUni :: Parser (SomeTypeIn (Kinded DefaultUni))
 defaultUni = choice $ map try
     [ trailingWhitespace (inParens defaultUniApplication)
-    , someType @_ @Integer <$ symbol "integer"
```
Comment (effectfully) [inline plutus-core/plutus-core/src/PlutusCore/Parser/Type.hs:129]: This definition is not about constants though, it's about types. We can't let the user spell out the type in a program?

**Review by effectfully — COMMENTED** [review]
Final chunk. I've reviewed everything I was able to understand sans implementation of the crypto stuff and golden files (there are way too many of them and I don't understand much there) and things that I explicitly marked as "didn't review" below.

Tests are marvelous. And the entire PR is fantastic.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs [hunk 57]
```diff
@@ -0,0 +1,449 @@
...
+finalVerifyTerm = mkApp2 Bls12_381_finalVerify
+
+
+{- Generic tests for the TestableAbelianGroup class.  Later these are instantiated
+   at the G1 and G2 types. -}
+
+---------------- G is an Abelian group ----------------
+
+-- | Group addition is associative.
+test_add_assoc :: forall a. TestableAbelianGroup a => TestTree
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs:59]: Maybe you're right.  I started off with Haskell versions of these that didn't need so many @s, but then when I converted the tests into PLC things started to get out of control a bit.  I was going to suggest that later on we might have more curves that these tests could be applied to as well, but even if that happens I guess that writing a dictionary's not much worse than writing a typeclass instance.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs [hunk 58]
```diff
@@ -0,0 +1,449 @@
...
+      let e = uncompressTerm @a (bytestring b')
+      pure $ evalTerm e === CekError
+    where correctSize s = BS.length s == compressedSize @a
+
+-- | Check that the most significant bit is set for all compressed points
+test_compression_bit_set :: forall a. HashAndCompress a => TestTree
+test_compression_bit_set =
+    testProperty
+    (mkTestName @a "compression_bit_set") .
+    withNTests $ do True === True
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs]: Oh. I've fixed that now.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs [hunk 59]
```diff
@@ -0,0 +1,449 @@
...
+test_no_hash_collisions :: forall a . HashAndCompress a => TestTree
+test_no_hash_collisions =
+    let emptyBS = bytestring BS.empty
+    in testProperty
+           (mkTestName @a "no_hash_collisions") .
+           withNTests $ do
+             b1 <- arbitrary
+             b2 <- arbitrary
+             let e = eqTerm @a (hashToGroupTerm @a (bytestring b1) emptyBS) (hashToGroupTerm @a (bytestring b2) emptyBS)
+             pure $ b1 /= b2 ==> evalTerm e === uplcFalse
```
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs:346]: Ah, that's a good idea. I suppose the birthday paradox would come into play and make it more likely that any mis-implementation would be more likely to show up.  As a bonus, if we find a real hash collision then we might be able to use it to make money.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 60]
```diff
@@ -0,0 +1,326 @@
...
+{- | Remove the textual names from a NamedDeBruijn program -}
+toAnonDeBruijnProg :: UProg -> UDBProg
+toAnonDeBruijnProg (UPLC.Program () ver body) =
+    UPLC.Program () ver $ UPLC.termMapNames (\(UPLC.NamedDeBruijn _ ix) -> UPLC.DeBruijn ix) body
+
+-- Create a list containing n bytestrings of length l.  This could be better.
+listOfSizedByteStrings :: Integer -> Integer -> [ByteString]
+listOfSizedByteStrings n l = unsafePerformIO . G.sample $
+                             G.list (R.singleton $ fromIntegral n)
+                                  (G.bytes (R.singleton $ fromIntegral l))
```
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:60]: > What could go wrong? I'll add `NOINLINE` but I'm not sure that I understand the issue.

In this instance probably nothing, because `unsafePerformIO` is behind a lambda and the two bound variables are inside the `unsafePerformIO` call, but in the general case lots of things can go wrong, see the [docs](https://hackage.haskell.org/package/base-4.18.0.0/docs/System-IO-Unsafe.html#v:unsafePerformIO). Although `NOINLINE` doesn't help with most of those, so idk, feel free to ignore.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs [hunk 61]
```diff
@@ -0,0 +1,326 @@
...
+
+-- Hash some bytestrings onto G1 and add them all together
+
+{-# INLINABLE hashAndAddG1 #-}
+hashAndAddG1 :: [BuiltinByteString] -> BuiltinBLS12_381_G1_Element
+hashAndAddG1 [] = error ()
+hashAndAddG1 (p:ps) =
+    go ps (Tx.bls12_381_G1_hashToGroup p emptyByteString)
+    where go [] acc     = acc
+          go (q:qs) acc = go qs $ Tx.bls12_381_G1_add (Tx.bls12_381_G1_hashToGroup q emptyByteString) acc
```
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:72]: > I'm not sure. I'm in the habit of using accumulators in Ocaml and tend to forget that it's often pointless in Haskell.

No, I think using an accumulator is a perfect solution in this case, just proposing to replace `$` with `$!` or add a bang or something.

> However this is getting complied into PLC so shouldn't and strict/lazy issues disappear?

More like emerge. Imagine this situation: GHC, for whatever reason, creates a binding for

```haskell
Tx.bls12_381_G1_add (Tx.bls12_381_G1_hashToGroup q emptyByteString) acc
```

and the Plutus Tx compiler sees a `let` and assumes that it's lazy (unless you use `Strict` in this file) and that gets compiled to a `delay` and you just wasted some performance (which we may not care about in this case, I don't know). Overall, the general rule is that if you have an accumulator and you don't just accumulate constructors (i.e. there's something to evaluate there), then it should be strict. This helps both Haskell (in practice) and Plutus (in theory).

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_add/add-zero/add-zero.uplc (hunk 48 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_add/add-zero/add-zero.uplc:8]: > I wondered about that, but maybe it's better to have the program output something that you can actually look at rather than just True/False. Not sure.

Yeah, good point.

File: plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_neg/add-neg/add-neg.uplc (hunk 45 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-conformance/test-cases/uplc/evaluation/builtin/semantics/bls12_381_G1_neg/add-neg/add-neg.uplc:2]: > T[here](https://github.com/input-output-hk/plutus/blob/513f4e63f72cd90b02fdf19c1e97ff64b6ecb95d/plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs#L80) are property tests for things like that here, and it was a lot easier to put those in plutus-core.

That's a pretty good reason! Thanks.

File: plutus-core/plutus-core/src/PlutusCore/Default/Universe.hs (hunk 46 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-core/plutus-core/src/PlutusCore/Default/Universe.hs:483]: > It wasn't too bad, although the problem with the newtypes and the fact that the MlResult type is opaque and non-serialisable were unexpected and caused some difficulties. 

Yeah, it would be very hard for us to predict the latter. The former is unfortunate, but there's hope for fixing it.

File: plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs (hunk 33 above)
Comment (effectfully) [reply plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs:262]: > Sorry, I'm not sure what you mean.

Make it something like

```haskell
g1ElementCost :: CostRose
g1ElementCost = singletonRose . unsafeToSatInt $ BLS12_381.G1.memSizeBytes `div` 8
{-# NOINLINE g1ElementCost #-}

instance ExMemoryUsage BLS12_381.G1.Element where
    memoryUsage _ = g1ElementCost
```

so that the cost is definitely shared and not recomputed each time a `G1.Element` is costed.

File: plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs (hunk 59 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-core/untyped-plutus-core/test/Evaluation/Builtins/BLS12_381.hs:346]: > As a bonus, if we find a real hash collision then we might be able to use it to make money.

I almost choked on my sandwich.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 60 above)
[the remark this answers is not in the document]
Comment (lehins) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:60]: Lot's of things can go wrong, but not because of inlining. `G.sample` is non-deterministic function, so by placing it behind `unsafePerformIO` you violate referential transparency and purity of `listOfSizedByteStrings` function. It either must be an IO action, or it should accept the seed as an argument.

**Comment by kwxm** [comment]
Thanks for the comments @effectfully, especially the one about has collisions. I think I've addressed all of them except for the one about explicit dictionaries: I might come back to that later.

**Comment by kwxm** [comment]
@angerman I think this PR is blocked because you requested changes because of the Windows build problem.  I believe we decided that you'd look into that separately, so is it OK to merge this now?  I had some trouble merging the nix files with those in `master` (but eventually managed to get things into a state where `nix develop` worked), so you might want to check that they look reasonable.

**Comment by angerman** [comment]
@kwxm here's the haskell.nix bump PR: https://github.com/input-output-hk/plutus/pull/5366

I've also tried to just bump haskell.nix on this PR, but that resulted in
```
       > untyped-plutus-core/src/UntypedPlutusCore/Transform/Inline.hs:284:29: error:
       >     • Variable not in scope:
       >         asum
       >           :: [Maybe (Term name1 uni1 fun1 ann)]
       >              -> Maybe (Term name1 uni1 fun1 ann)
       >     • Perhaps you meant ‘sum’ (imported from Prelude)
       >     |
       > 284 |         Constr _ _ ts    -> asum $ goTerm <$> ts
       >     |              
```
after I pulled the latest changes 😕

**Comment by angerman** [comment]
So this fails on windows with
```
[168 of 171] Compiling UntypedPlutusCore.Transform.Inline ( untyped-plutus-core/src/UntypedPlutusCore/Transform/Inline.hs, dist/build/UntypedPlutusCore/Transform/Inline.o )

untyped-plutus-core/src/UntypedPlutusCore/Transform/Inline.hs:284:29: error:
    • Variable not in scope:
        asum
          :: [Maybe (Term name1 uni1 fun1 ann)]
             -> Maybe (Term name1 uni1 fun1 ann)
    • Perhaps you meant ‘sum’ (imported from Prelude)
    |
284 |         Constr _ _ ts    -> asum $ goTerm <$> ts
    |                  
```
too.

I don't think the Darwin -> Windows pipeline works, and I'm not sure why this is in CI.

**Comment by angerman** [comment]
Notable I don't see that failure on master (with bumped haskell.nix): https://github.com/input-output-hk/plutus/pull/5366

File: nix/cells/automation/ciJobs.nix [hunk 62]
```diff
@@ -86,7 +82,7 @@ let
         //
         { ghc96 = native-plutus-96-jobs; }
         //
-        { mingwW64 = windows-plutus-92-jobs; }
+        { mingwW64 = windows-plutus-810-jobs; }
```
Comment (angerman) [inline nix/cells/automation/ciJobs.nix:85]:
```suggestion
        { mingwW64 = windows-plutus-92-jobs; }
```

File: nix/cells/automation/ciJobs.nix [hunk 63]
```diff
@@ -51,11 +51,7 @@ let
   native-plutus-92-jobs = make-haskell-jobs library.plutus-project-92;
   native-plutus-96-jobs = make-haskell-jobs library.plutus-project-96;
 
-  # - Only test cross on our primary dev version
-  # - Cross-compiling to windows only works from linux
-  windows-plutus-92-jobs =
-    lib.optionalAttrs (system == x86linux)
-      (make-haskell-jobs library.plutus-project-92.projectCross.mingwW64);
+  windows-plutus-810-jobs = make-haskell-jobs library.plutus-project-810.projectCross.mingwW64;
```
Comment (angerman) [inline nix/cells/automation/ciJobs.nix:54]:
```suggestion
  # - Only test cross on our primary dev version
  # - Cross-compiling to windows only works from linux
  windows-plutus-92-jobs =
    lib.optionalAttrs (system == x86linux)
      (make-haskell-jobs library.plutus-project-92.projectCross.mingwW64);
```

**Review by angerman — DISMISSED** [review]
I think we should revert this back to the original for now.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 60 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:60]: > Lot's of things can go wrong, but not because of inlining. `G.sample` is non-deterministic function, so by placing it behind `unsafePerformIO` you violate referential transparency and purity of `listOfSizedByteStrings` function. It either must be an IO action, or it should accept the seed as an argument.


This is for use in benchmarks that give us an idea of how expensive various combinations of operations are, so it's not disastrous if something goes wrong here.  I take your point though; we have stuff like this in other benchmarks too and there's an issue to tidy up the generators for those (PLT-1171).  It's probably better to do all of that at once, so I've added a note to fix this too.

**Comment by kwxm** [comment]
> @kwxm here's the haskell.nix bump PR: #5366
> 
> I've also tried to just bump haskell.nix on this PR, but that resulted in
> 
> ```
>        > untyped-plutus-core/src/UntypedPlutusCore/Transform/Inline.hs:284:29: error:
>        >     • Variable not in scope:
>        >         asum
>        >           :: [Maybe (Term name1 uni1 fun1 ann)]
>        >              -> Maybe (Term name1 uni1 fun1 ann)
>        >     • Perhaps you meant ‘sum’ (imported from Prelude)
>        >     |
>        > 284 |         Constr _ _ ts    -> asum $ goTerm <$> ts
>        >     |              
> ```
> 
> after I pulled the latest changes confused

That's weird: `asum` should be imported from `Control.Applicative` [here](https://github.com/input-output-hk/plutus/blob/e67e0298f96cb82f7bc7224dc8c30c70e0427639/plutus-core/untyped-plutus-core/src/UntypedPlutusCore/Transform/Inline.hs#L39).  I have no idea why that would have happened (and the file that's causing the error is completely untouched by this PR).

**Comment by angerman** [comment]
@kwxm yes, I'm also a bit surprised by this. Even more so that I don't see this in master 😅

**Comment by michaelpj** [comment]
Looks like it succeeded but the status isn't getting reported for some reason.

**Comment by angerman** [comment]
I think this is good to merge. IDK why hydra complains. We could forcepush. I'll force push once.

File: plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs (hunk 61 above)
[the remark this answers is not in the document]
Comment (kwxm) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:72]: ... but putting `!acc` on the lhs gives exactly the same results as the first version (no  bangs at all).  Maybe I'll do that just to be safe.  I might try to have a look at the compiled UPLC too.

[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-benchmark/bls-benchmarks/src/PlutusBenchmark/BLS12_381/Common.hs:72]: Great analysis, thank you.

**Comment by kwxm** [comment]
Slightly premature, since I was just about to push some more changes!  I'll open a new branch for that.

File: plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs (hunk 34 above)
Comment (kwxm) [reply plutus-core/testlib/PlutusCore/Generators/QuickCheck/Builtin.hs:140]: I've just made all of the shrinks empty.

File: plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs (hunk 33 above)
Comment (bezirg) [reply plutus-core/plutus-core/src/PlutusCore/Evaluation/Machine/ExMemoryUsage.hs:262]: `quot` could be used instead of `div` but does not matter much here
